US07767705B2
4-Chloro-3-isopropylbenzoic acid ethyl ester
3-Bromo-4-chlorobenzoic acid ethyl ester (1.05 g, 3.99 mmol) was added in one portion to a solution of diisopropylzinc (10.0 mmol, 1M toluene, Aldrich) in 10 mL of 1,4-dioxane followed by addition of Pd(dppf)2Cl2 (4.0 mmol). The mixture was heated to reflux 3 hours, cooled to ambient temperature and stirred overnight. The mixture was quenched with 1N aqueous HCl, diluted with ethyl acetate, and filtered through celite. The separated organic layer was washed sequentially with 1N aqueous HCl, brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by chromatography eluting with 4% ethyl acetate/hexanes to provide the title compound. 1H NMR (DMSO-d6) δ 7.92 (d, 1H), 7.78 (dd, 1H), 7.58 (d, 1H), 4.32 (q, 2H), 3.35 (sept, 1H), 1.32 (t, 3H), 1.24 (d, 6H).

reactant | 3-Bromo-4-chlorobenzoic acid ethyl ester | 3.99 mmol, 1.05 g | C(C)OC(C1=CC(=C(C=C1)Cl)Br)=O | C9H8BrClO2
reactant | diisopropylzinc | 10.0 mmol, 1M | C(C)(C)[Zn]C(C)C
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 4.0 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Chloro-3-isopropylbenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Cl)C(C)C)=O | C12H15ClO2
